US04814484
(5) Methylphosphinoacetyldiiodothyronine
The compound was prepared analogously to the procedure described in examples (2) and (3). Methylphosphinoacetic acid was used in place of methylphosphinopropionic acid and diiodothyronine methyl ester hydrochloride was used in place of triiodothyronine methyl ester hydrochloride. The final product was purified by inverse phase column chromatography on silica gel RP 18 using 75% strength methanol as eluent. The unary substance of the main fraction, differing in the TLC from the starting materials, was identified by mass spectrometry as the title compound.

reactant | Methylphosphinoacetic acid | CPCC(=O)O | C3H7O2P
reactant | diiodothyronine methyl ester hydrochloride | Cl.COC([C@@H](N(I)I)CC1=CC=C(C=C1)OC1=CC=C(C=C1)O)=O
product | Methylphosphinoacetyldiiodothyronine | CPCC(=O)[C@](N(I)I)(CC1=CC=C(C=C1)OC1=CC=C(C=C1)O)C(=O)O | C18H18I2NO5P
